US05104866
Sodium 7-[2-(5-carboxylatoamino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer) was prepared by reacting 7-[2-(5-amino-1,2,4-thiadiazol-3yl)-2-allyloxyiminoacetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate sulfate (syn isomer) (50 mg) and sodium hydrogencarbonate (21 mg) and detected according to a similar manner to that of Example 17.

reactant | 7-[2-(5-amino-1,2,4-thiadiazol-3yl)-2-allyloxyiminoacetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate sulfate | 50 mg | S(=O)(=O)([O-])O.NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)O)C1=O)=NOCC=C
reactant | sodium hydrogencarbonate | 21 mg | C(O)([O-])=O.[Na+]
product | Sodium 7-[2-(5-carboxylatoamino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate | C(=O)([O-])NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)=NOCC=C.[Na+] | InChI=1S/C21H19N7O7S2.Na/c1-2-8-35-25-12(15-23-20(37-26-15)24-21(33)34)16(29)22-13-17(30)28-14(19(31)32)11(10-36-18(13)28)9-27-6-4-3-5-7-27;/h2-7,13,18H,1,8-10H2,(H3-,22,23,24,26,29,31,32,33,34);/q;+1/p-1/t13?,18-;/m1./s1
